US08809382B2
Step 3 (5-(2-Hexyl-indol-1-yl)-3-methyl-5-oxo-pentanoic acid methyl ester)
In flask A postassium-tert-butoxide solution in THF was added to a solution of 2-hexyl-1H-indole and stirred for 30 minutes. In another flask B trifluoro acetic anhydride was added to a solution of 3(R)-methyl-pentanedioic acid monomethyl ester in methylene chloride and stirred for 20 minutes. The solution in flask A was transferred to solution in flask B and the reaction mixture was stirred for 3 hours. The reaction was treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | 2-hexyl-1H-indole | C(CCCCC)C=1NC2=CC=CC=C2C1 | C14H19N
reactant | trifluoro acetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3(R)-methyl-pentanedioic acid monomethyl ester | COC(C[C@@H](CC(=O)O)C)=O | C7H12O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-Hexyl-indol-1-yl)-3-methyl-5-oxo-pentanoic acid methyl ester | COC(CC(CC(=O)N1C(=CC2=CC=CC=C12)CCCCCC)C)=O | C21H29NO3
